US05817693
b) (1RS,2SR,3RS)-3-(4-Methoxy-2-phenylphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylic acid
To a solution of Methyl(1RS,2RS,3RS)-3-(4-Methoxy-2-phenylphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylate (80 mg, 0.12 mmol) in dioxane (2 mL) was added 1M aqueous NaOH (0.3 mL, 0.3 mmol). The resulting mixture was heated to reflux for 48 h, then concentrated under reduced pressure. The residue was partitioned between dilute aqueous HCl and ethyl acetate. The ethyl acetate extract was washed with water and dried (MgSO4 anhydrous). The solvent was removed in vacuo and the residue purified by flash column chromatography (silica gel, 20% ethyl acetate/hexane containing 5% of acetic acid) to afford the title compound (36 mg, 46%). m.p. 199°-200° C.

reactant | Methyl(1RS,2RS,3RS)-3-(4-Methoxy-2-phenylphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylate | 0.12 mmol, 80 mg | COC1=CC(=C(C=C1)C1C(C(C2=CC=C(C=C12)OCCC)C1=CC2=C(C=C1)OCO2)C(=O)OC)C2=CC=CC=C2 | C34H32O6
reactant | NaOH | 0.3 mmol, 1M, 0.3 mL | [OH-].[Na+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | (1RS,2SR,3RS)-3-(4-Methoxy-2-phenylphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylic acid | 36 mg, 46% | COC1=CC(=C(C=C1)C1C(C(C2=CC=C(C=C12)OCCC)C1=CC2=C(C=C1)OCO2)C(=O)O)C2=CC=CC=C2 | C33H30O6
